US05525632
Step 1: Preparation of (Z)-3-(3-nitro-4-chlorophenyl)-2-(3,4,5-trimethoxyphenyl)-prop-2-ene-nitrile
5.0 g of 3-nitro-4-chlorobenzaldehyde, 5.6 g of 3,4,5-trimethoxyphenylacetonitrile, 1.3 g of sodium hydroxide and 500 mg of trioctylmethylammonium chloride were dissolved in 10 ml of water and 50 ml of dichloromethane. The mixture was stirred vigorously for 3 hours at room temperature. The ice water was added to the mixture and the mixture was extracted with dichloromethane three times and dried over anhydrous sodium sulfate. The organic layer was concentrated and the residue was crystallized from ethyl acetate to give 4.9 g of the intended compound. The yield was 48.5%.

reactant | 3-nitro-4-chlorobenzaldehyde | 5.0 g | [N+](=O)([O-])C=1C=C(C=O)C=CC1Cl | C7H4ClNO3
reactant | 3,4,5-trimethoxyphenylacetonitrile | 5.6 g | COC=1C=C(C=C(C1OC)OC)CC#N | C11H13NO3
reactant | sodium hydroxide | 1.3 g | [OH-].[Na+]
catalyst | trioctylmethylammonium chloride | 500 mg | [Cl-].C(CCCCCCC)[N+](C)(CCCCCCCC)CCCCCCCC
solvent | water | 10 ml | O | H2O
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | (Z)-3-(3-nitro-4-chlorophenyl)-2-(3,4,5-trimethoxyphenyl)-prop-2-ene-nitrile | 4.9 g, yield was 48.5% | [N+](=O)([O-])C=1C=C(C=CC1Cl)\C=C(/C#N)\C1=CC(=C(C(=C1)OC)OC)OC | C18H15ClN2O5
